US06949542B2
(2-{3-[3-(6-Methoxy-pyridin-3-yl)-phenyl]-3-oxo-propionylamino}-5-methyl-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester
The title compound was prepared from (2-amino-5-methyl-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester (Example J20) (232 mg, 0.80 mmol) and 3-[3-(6-methoxy-pyridin-3-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester (Example K10) (270 mg, 0.82 mmol) according to the general procedure M. Obtained as a yellow foam (287 mg, 66%).

reactant | (2-amino-5-methyl-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | 0.80 mmol, 232 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)C)C(F)(F)F)N)=O | C13H17F3N2O2
reactant | 3-[3-(6-methoxy-pyridin-3-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester | 0.82 mmol, 270 mg | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C=1C=NC(=CC1)OC)=O | C19H21NO4
product | (2-{3-[3-(6-Methoxy-pyridin-3-yl)-phenyl]-3-oxo-propionylamino}-5-methyl-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)C)C(F)(F)F)NC(CC(=O)C1=CC(=CC=C1)C=1C=NC(=CC1)OC)=O)=O | C28H28F3N3O5
